US08455646B2
Preparation of (2-fluoro-phenyl)-phenylamino-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester (C262)
To a solution of (2-fluoro-phenyl)-phenylamino-acetic acid hydrochloride (I261) (217 mg, 0.77 mmol), (R)-quinuclidin-3-ol (338 mg, 2.66 mmol) and 1H-benzo[d][1,2,3]triazol-1-ol (180 mg, 1.332 mmol) in dry THF (15 mL), is added PS-DCC (1.0 g, 1.33 mmol). The mixture is shaken at RT for 15 hours. Then (R)-quinuclidin-3-ol (49.0 mg, 0.38 mmol) and PS-DCC (290 mg, 0.38 mmol) are added again and the reaction is shaken for additional 3 hours at RT. The resin is removed by filtration and washed several time with EtOAc. The solvent is evaporated, the residue is taken up with EtOAc and washed with NaHCO3, water and brine. The organic phase is dried (Na2SO4), filtered and evaporated to afford the title compound as a brown oil (225 mg, 82% yield).

reactant | (2-fluoro-phenyl)-phenylamino-acetic acid hydrochloride | 0.77 mmol, 217 mg | Cl.FC1=C(C=CC=C1)C(C(=O)O)NC1=CC=CC=C1
reactant | (R)-quinuclidin-3-ol | 2.66 mmol, 338 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | 1H-benzo[d][1,2,3]triazol-1-ol | 1.332 mmol, 180 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | DCC | 1.33 mmol, 1.0 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | (R)-quinuclidin-3-ol | 0.38 mmol, 49.0 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | DCC | 0.38 mmol, 290 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (2-fluoro-phenyl)-phenylamino-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester | 225 mg, 82% yield | N12C[C@@H](C(CC1)CC2)OC(C(NC2=CC=CC=C2)C2=C(C=CC=C2)F)=O | C21H23FN2O2
